US07189850B2
rac-2-p-Tolyl-cyclohexanone
To a solution of 3.00 g (15.8 mmol) rac-2-p-tolyl-cyclohexanol in 60 ml dichloromethane were added drop-wise 51.84 g (18.3 mmol) of a 15% solution of Dess-Martin periodinane [1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one] in dichloromethane, and then drop-wise a solution of 300 μl water in 300 ml dichloromethane within 30 min. The resulting solution was stirred for further 30 min. at ambient temperature. Then the reaction mixture was diluted with 350 ml tert.-butyl methyl ether and evaporated to a quarter of the initial volume. The residue was diluted with 800 ml tert.-butyl methyl ether, washed with a total of 600 ml of a 1:1 mixture of saturated NaHCO3 solution and a 10% Na2S2O3 solution and with brine. The combined aqueous extracts were re-extracted with tert.-butyl methyl ether. The combined organic extracts were washed with brine, died over Na2SO4, filtered and evaporated. The residue was purified by flash-chromatography on silica gel with dichloromethane as eluent: 2.39 g rac-2-p-tolyl-cydohexanone as colorless powder: MS (ISP): 189.3 MH+.

reactant | rac-2-p-tolyl-cyclohexanol | 15.8 mmol, 3.00 g | C1(=CC=C(C=C1)C1C(CCCC1)O)C | C13H18O
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | water | 300 μl | O | H2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | tert.-butyl methyl ether | 350 ml | COC(C)(C)C | C5H12O
product | rac-2-p-Tolyl-cyclohexanone | C1(=CC=C(C=C1)C1C(CCCC1)=O)C | C13H16O
